US03988340
Preparation of 7-Bromo-6-methoxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-2-one.
To a vigorously stirred solution of 1.87 g. (0.01 mole) of 6-methoxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-2-one in 40 ml. of glacial acetic acid is added dropwise at room temperature 1.60 g. (0.01 mole) of bromine. The mixture is stirred at room temperature for one hour, water (50 ml.) is added and the volume concentrated (10-15 ml.) in vacuo. Additional water (50 ml.) is added, the solution made basic with ammonium hydroxice, warmed and the insoluble material filtered under suction. The colorless solid is washed with water, dried and crystallized from 50 ml. of 5% hydrochloric acid yielding the title product as a colorless solid. Purification is effected by crystallization from methanol/ether to yield the title product.

reactant | 6-methoxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-2-one | 0.01 mole | COCC1=C2CN3C(=NC2=CC=C1)NC(C3)=O | C12H13N3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromine | 0.01 mole | BrBr | Br2
solvent | water | 50 ml | O | H2O
product | 7-Bromo-6-methoxymethyl-1,2,3,5-tetrahydroimidazo[2,1-b]-quinazolin-2-one | BrC=1C(=C2CN3C(=NC2=CC1)NC(C3)=O)COC | C12H12BrN3O2
